US09108939B2
B: 1-(Bromomethyl)-2-chloro-5-fluoro-4-nitrobenzene
1-Chloro-4-fluoro-2-methyl-5-nitrobenzene (1 g) was dissolved in chlorobenzene (6 mL) and N-bromosuccinimide (1.408 g) was added followed by benzoyl peroxide (0.183 mg). The reaction mixture was stirred at reflux for 4 hours. The reaction mixture was cooled and water was added. The mixture was extracted with dichloromethane (3×) and concentrated under reduced pressure. The crude oil obtained was triturated with diethyl ether, filtered and the filtrate concentrated under reduced pressure (3×) to yield the title compound (1.55 g).

reactant | 1-Chloro-4-fluoro-2-methyl-5-nitrobenzene | 1 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5ClFNO2
reactant | N-bromosuccinimide | 1.408 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | chlorobenzene | 6 mL | ClC1=CC=CC=C1 | C6H5Cl
catalyst | benzoyl peroxide | 0.183 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-(Bromomethyl)-2-chloro-5-fluoro-4-nitrobenzene | 1.55 g | BrCC1=C(C=C(C(=C1)F)[N+](=O)[O-])Cl | C7H4BrClFNO2
